US07405236B2
c] (6-{[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynylcarbamoyl]-methyl}-indol-1-yl)-acetic acid ethyl ester
In analogy to the procedure described for example 1 b], 2-(1H-indol-6-yl)-N-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-acetamide was reacted with bromo-acetic acid ethyl ester in the presence of cesium carbonate and potassium iodide in acetonitrile under reflux conditions to give the title compound as off-white solid.

reactant | 2-(1H-indol-6-yl)-N-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-acetamide | N1C=CC2=CC=C(C=C12)CC(=O)NCC#CC1=CC=C(C=C1)OC(F)(F)F | C20H15F3N2O2
reactant | bromo-acetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | (6-{[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynylcarbamoyl]-methyl}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)CC(NCC#CC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C24H21F3N2O4
